Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-5.21157755448
[C:8]([H:9])([H:10])=[C:11][O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],0.29520803011
[C:1]#[C:2][O:3][C:4]#[C:5][O:7][H:8].[H:6]>>[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-2.67501742662
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],2.45811394375
[O:1]([C:2](=[C:3]([H:4])[H:5])[C:6]([C:9]=[O:7])([H:10])[H:11])[H:8]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([O:7][H:8])[C:9]([H:10])[H:11],1.26622893606
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6],0.65371226218
[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.4285250368
[C:1](=[C:2]([H:6])[C:7]([H:8])([H:9])[H:10])[H:4].[C:3]#[C:5]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-6.21748836146
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.88835845665
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][H:5],5.75875583456
[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]=[C:11]([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.21523197724
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.83111685399
[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-5.23005744
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-2.9869605484099995
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.0644250284000005
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-5.03650609037
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.914763052856
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11]>>[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[O:10],1.6298560398500002
[C:1]#[C:2][O:3][O:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.4176791952900003
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.8448188617500003
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:3],2.36161542692
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([O:7][H:8])[C:9]([H:10])[H:11],1.28711138268
[H:1][C:2]=[C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.69694923486
[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7],2.08176219766
[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.99497633857
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:4]#[C:3],5.8294918429
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15],5.13145224927
[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9],-7.31290176128
